US07462639B2
To a solution of 3,3-diethyl-1,3-dihydro-indol-2-one (10.0 g, 52.84 mmol, A. Mertens et al., J. Med. Chem. 1987, 30, 1279-1287) in conc. sulfuric acid (50 ml) was added slowly a mixture of nitric acid (65%, 5.12 g, 3.63 ml, 52.84 mmol) and conc. sulfuric acid (10 ml) at 0° C. After 2 h at room temperature the mixture was poured into ice water. The precipitate was filtered off, washed with water and dried to yield 11.7 g 3,3-diethyl-5-nitro-1,3-dihydro-indol-2-one (49.95 mmol, 94%).

reactant | 3,3-diethyl-1,3-dihydro-indol-2-one | C(C)C1(C(NC2=CC=CC=C12)=O)CC | C12H15NO
reactant | nitric acid | 52.84 mmol, 3.63 ml, 5.12 g | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
product | 3,3-diethyl-5-nitro-1,3-dihydro-indol-2-one | 49.95 mmol, 11.7 g, 94% | C(C)C1(C(NC2=CC=C(C=C12)[N+](=O)[O-])=O)CC | C12H14N2O3
